Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
transfer from ___ for submassive PE
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
History gathered from patient's daughter (she is at baseline
unable to provide meaningful history ___ memory loss from AD) 
and
chart review.

In brief, Ms. ___ has not been herself for many months with
progressive worsening of her physical functionality. She is able
to walk, but only limited distances. She has become more
sedentary, spending most of her time sitting down and has also
been starting to refuse all of her medications. About 4 days
prior to presentation, she first was witnessed by her son to 
have
a syncopal event. Ms. ___ daughter is unaware of the 
details
of this event, but states that she did not fall and hit her 
head,
was caught and gently let down. She did however, lose
consciousness and have some movements concerning for seizure
while she was unconscious for a few minutes. For this episode,
she presented to the ___ and was admitted, worked up with
negative EEG and NCHCT given concern for cancer. As such, she 
was
discharged home.

After arriving home, upon walking from car indoors, she had
another episode, during exertion of sudden onset discomfort
(daughter states that her mother suddenly screamed out that she
was not going to be ok), followed by sudden weakness, loss of
consciousness, and blank staring motions without any semblance 
of
responsiveness. Again this episode lasted a few minutes, but 
then
she recovered without any worse confusion than baseline. No head
strike or other symptoms associated with this fall as she was
caught. Finally, while brushing her teeth on night of
presentation, she again had this episode, similar, and was
brought to the ___ for further care at ___.

Per the patient's daughter, she has not complained of any
worsening ___ swelling, chest pain/pressure, SOB, dizziness/LH,
abdominal discomfort, N/V, fevers, chills, cough, hemoptysis,
palpitations, nightsweats, weight loss, or other symptoms. She,
however, at baseline, is quite forgetful and does not complain
about any symptoms at all unless they are really bad. She is
completely dependent on others for her IADLs and ADLs and is
quite sedentary, especially over the past few months. She does
have a prior history of breast CA (in remission) and to the best
of her daughter's knowledge, was uptodate with all of her cancer
screening. She does not use any hormone therapy and has not had
any prior VTEs.

At ___, initial VS were Tm ___, HR 95 (down to 75
bpm), BP 90-100's/60-90's, 93% on RA, up to 97% on 3L. She
underwent work-up with CTA chest showing saddle PE with RH 
strain
and was given NS x1L, lovenox 65mg SC x1 at 1am, prior to
transfer to ___ for further care. High-sensitivity troponin 
0.071.
 
Past Medical History:
-Alzheimer's disease
-Colon polyp
-GERD
-Gait disorder
-Hearing disorder
-Hyperlipidemia
-Osteopenia
-Psoriasis
-Urinary incontinence
-Breast CA s/p mastectomy/XRT/chemo ___ years ago, in remission)
 
Social History:
___
Family History:
no family hx of VTEs or malignancy
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================  
VS: HR 72, BP 110/76 RR 25 SaO2 95% RA
GEN:  Resting comfortably
HEENT:  EOMI, MMM, neck supple
CV: rrr, unable to appreciate heart sounds
RESP:  ctab, mildly tachypneic
GI:  soft, nttp, nd
MSK:  Trace RLE pitting edema, cool toes, warm fingers
NEURO:  A+Ox1, hard of hearing

DISCHARGE PHYSICAL EXAM:
========================
Vitals: ___ 0728 Temp: 97.9 PO BP: 103/65 R Lying HR: 70 
RR:
20 O2 sat: 95% O2 delivery: Ra 
General: Laying in bed wearing hospital gown. Awake. Responds
yes/no but minimal
conversation.  
HEENT: EOMI to observation. MMM   
Resp: No NC in place. Breathing comfortably. clear to
auscultation bilaterally
CV: regular rate, S1 + S2 present, no murmurs, rubs, gallops  
GI: soft, non-tender, non-distended
Extremities: warm, well perfused, 2+ DP pulses. No calf
tenderness to palpation b/l. 
Neuro: AOx0-1 (intermittently oriented to self). MAE.
 
Pertinent Results:
ADMISSION LABS:
===================

___ 03:40AM BLOOD WBC-10.6* RBC-4.03 Hgb-12.0 Hct-38.3 
MCV-95 MCH-29.8 MCHC-31.3* RDW-14.4 RDWSD-50.8* Plt ___
___ 03:40AM BLOOD Neuts-75.9* Lymphs-13.8* Monos-9.1 
Eos-0.2* Baso-0.3 Im ___ AbsNeut-8.04* AbsLymp-1.46 
AbsMono-0.96* AbsEos-0.02* AbsBaso-0.03
___ 03:40AM BLOOD ___ PTT-36.4 ___
___ 03:40AM BLOOD Glucose-103* UreaN-16 Creat-0.6 Na-139 
K-4.3 Cl-110* HCO3-19* AnGap-10
___ 03:40AM BLOOD ALT-9 AST-15 AlkPhos-51 TotBili-0.5
___ 03:40AM BLOOD Albumin-2.9* Calcium-7.9* Phos-3.2 Mg-1.8
___ 03:40AM BLOOD proBNP-5306*
___ 03:40AM BLOOD cTropnT-<0.01
___ 03:48AM BLOOD ___ pO2-26* pCO2-28* pH-7.41 
calTCO2-18* Base XS--5
___ 03:48AM BLOOD Lactate-0.9

DISCHARGE LABS:
===============
Last labs ___ 06:14AM BLOOD WBC-8.9 RBC-4.80 Hgb-14.4 Hct-44.5 MCV-93 
MCH-30.0 MCHC-32.4 RDW-14.3 RDWSD-48.9* Plt ___
___ 06:14AM BLOOD Glucose-79 UreaN-8 Creat-0.6 Na-140 K-4.5 
Cl-104 HCO3-25 AnGap-11
___ 06:14AM BLOOD Calcium-9.4 Phos-3.1 Mg-1.9
___ 06:14AM BLOOD TSH-2.3

IMAGING:
===========
TTE at bedside in ___: LVEF preserved, LV small, RV dilated,
moderate-severe free wall HK, no pericardial effusion

CTA Chest ___ from ___:
-bilateral acute pulmonary embolism including a saddle embolus
extending into all lobar branches of pulmonary arteries with 
mild
dilation of main PA c/w mild pulmonary arterial hypertension
-No aortic aneurysm/dissection
-Bibasilar and bilateral dependent atelectatic change/scarring
-R-sided breast implant
-relatively decreased size of LV with IVS inward deviation c/w 
RV
strain

Non Con CT Head ___ from ___:
FINDINGS: No acute ICH, mass, extra-axial fluid collections, 
hydrocephalus or midline shift. Sulci and ventricle patterns are 
appropriate for age. There are patchy and confluent regions of 
hypodensity throughout the periventricular, deep and subcortical 
white matter, which are nonspecific but most likely represent 
chronic microvascular ischemic disease. No loss of gray-white 
matter differentiation to suggest definite acute infarct. 
Incomplete evaluation of paranasal sinuses and mastoid air cells 
are clear. No depressed calvarial fractures. 

___ Bilat LENIs: Limited evaluation as the deep veins distal to 
the
distal femoral vein of the right lower extremity could not be 
imaged due to poor patient cooperation. No evidence of deep 
venous thrombosis in the left lower extremity veins and the 
partially imaged right lower extremity veins.

___ TTE
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color Doppler. There is normal 
left ventricular wall thickness with a normal cavity size. There 
is suboptimal image quality to
assess regional left ventricular function. Overall left 
ventricular systolic function is normal. The visually estimated 
left ventricular ejection fraction is >=60%. Left ventricular 
cardiac index is depressed (less than 2.0 L/min/m2). There is no 
resting left ventricular outflow tract gradient. Tissue Doppler 
suggests a normal left ventricular filling pressure (PCWP less 
than 12mmHg). Mildly dilated right ventricular cavity with focal 
hypokinesis of the basal free wall ___ sign). Tricuspid 
annular plane systolic excursion (TAPSE) is depressed. The 
aortic sinus diameter is normal for gender with normal ascending 
aorta diameter for gender. The aortic arch diameter is normal. 
There is no evidence for an aortic arch coarctation. The aortic 
valve leaflets (3) are mildly thickened. There is no aortic 
valve stenosis. There is no aortic regurgitation. The mitral 
valve leaflets appear structurally normal with no mitral valve 
prolapse. There is trivial mitral regurgitation. The
pulmonic valve leaflets are normal. The tricuspid valve leaflets 
appear structurally normal. There is mild to moderate [___] 
tricuspid regurgitation. There is mild-moderate pulmonary artery 
systolic hypetension. There is no pericardial effusion.
IMPRESSION: Right ventricular cavity dilation with free wall 
hypokinesis. Mild-moderate pulmonary artery systolic 
hypertension. Mild-moderate tricuspid regurgitation. Normal left 
ventricular wall thickness, cavity size and global systolic 
function.
 
Brief Hospital Course:
Ms. ___ is an ___ y/o woman w/ Alzheimer's c/b severe dementia 
and no prior hx thrombophilia, who was transferred from ___ 
___ with submassive PE diagnosed after multiple syncopal 
episodes, who was treated with lovenox BID with good effect. 

ACUTE ISSUES 
=============== 
#Submassive Pulmonary embolism: 
Ms. ___ had multiple episodes of syncope with no witnessed 
head strikes. She was taken to ___ on ___ by EMS, 
where she was found to be normotensive. She had CT head that 
showed no bleed or mass occupying lesions. She then had CTA 
chest which showed submassive PE with right heart strain. She 
also had elevated nt-proBNP (unclear baseline). She was 
transferred to ___. On arrival to ___, she was normotensive 
and requiring 2L NC. She was started on ___ lovenox. She had a 
normal troponin. She was seen by cardiology, who concluded she 
was not a catheter-directed TPA candidate. She was then admitted 
to MICU for monitoring over 12 hours, then stepped down to floor 
on hospital day 2 after clinical status improved with stable O2 
requirements. She was seen by the vascular medicine team, who 
recommended apixaban, but given the patient's aversion to oral 
medicine, she was continued on SC lovenox. At the time of 
discharge she was breathing well on room air without syncope and 
normal orthostatic VS. Discharged on lovenox SC 60mg BID. 

#Alzheimer's disease
#Dementia
#risk for malnutrition
Ms. ___ has a history of severe dementia. On admission, she 
was AOx0-1 (intermittently oriented to self). During admission, 
her family reported she had not been moving as much as usual in 
recent months. She was seen by ___ who recommended ___ care due 
to patient's mobility and ability to care for herself. Her 
family also reported she eats and drinks very little when at 
home. She was seen by nutrition who recommended ensure, ensure 
enlive, and magic cup supplements with meals. Appetite 
stimulants were deferred due to limited evidence and concern for 
neurological side effects. At discharge, Mrs. ___ was stably 
AOx0-1, tolerating her lovenox, and able to ambulate with 
walker.

CHRONIC ISSUES 
=============== 
#GERD
Patient has not been taking home omeprazole, so it was not 
continued.

#CODE STATUS: Full code (confirmed)

TRANSITIONAL ISSUES:
====================
[ ] On 60mg SC Lovenox BID (1mg/kg) due to aversion to taking PO 
medications - length of treatment to be determined by vascular 
medicine. Can consider DOAC if able to reliably adhere to PO 
medication regimen. 
[ ] Very poor PO intake - follow-up weight and intake.
[ ] Previously at assisted living. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Enoxaparin Sodium 60 mg SC Q12H 
Inject it under the skin twice per day.   
2.  Multivitamins W/minerals 1 TAB PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
PRIMARY: 
========== 
Submassive pulmonary embolism 
 
SECONDARY: 
============= 
Alzheimer's Dementia 
Risk for malnutrition 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure to care for you at the ___ 
___.  

Why did I come to the hospital?  
-  You went to ___ due to having falls, and were 
transferred to ___ after ___ found a blood clot 
in your lungs on imaging.

What happened while I was in the hospital?  
-  You had tests to make sure that your heart was not affected 
by the blood clot.
- You were started on an injectable blood-thinner to make sure 
that you do not have more blood clots form in the future.
- You saw the physical therapists who recommended you have ___ 
care. You were also seen by the nutritionists, who recommended 
you take ensure, ensure enlive, and magic cup supplements with 
your meals to help increase your caloric intake. 
- You were discharged when you were breathing well, you had good 
oxygen levels in your blood, you were tolerating your blood clot 
medications, and you were feeling well. 

What should I do once I leave the hospital?  
- Continue to take your medications as prescribed: lovenox 
injections under the skin twice per day. 
- Follow up with the vascular medicine team on ___ at 
4:20pm (see below)
- Follow up with your primary care physician on ___ at 2pm
 
We wish you the best!  
Your ___ Care Team  
 
Followup Instructions:
___